US07994185B2
Intermediate 38: 2-Propen-1-yl {5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate
To a solution of 2-propen-1-yl {5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate (35 g, 100.3 mmol in DMA, 500 mL), NBS (17.8 g, 100.3 mmol) was added. The reaction mixture was stirred at rt for 1 h. Then 2,2-dimethylpropanethioamide (13 g, 111 mmol) was added at 0° C. The mixture was stirred at 80° C. for 2 h. The mixture was poured into water and extracted with EtOAc (1 L×3). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (DCM:petroleum ether 2:1) to afford the title compound (36 g, 80.5% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.24-8.31 (m, 2H), 7.09-7.18 (m, 2H), 7.01 (d, J=5.5 Hz, 1H), 6.92-6.98 (br, 1H), 5.87-5.97 (m, 1H), 5.31-5.37 (m, 1H), 5.24-5.28 (m, 1H), 4.61-4.65 (m, 2H), 1.46 (s, 9H).

reactant | 2-propen-1-yl {5-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate | 100.3 mmol, 500 mL, 35 g | ClC1=NC=CC(=N1)CC(=O)C=1C=CC(=C(C1)NC(OCC=C)=O)F | C16H13ClFN3O3
reactant | NBS | 100.3 mmol, 17.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2-dimethylpropanethioamide | 111 mmol, 13 g | CC(C(N)=S)(C)C | C5H11NS
solvent | water | O | H2O
product | 2-Propen-1-yl {5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate | 36 g, 80.5% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=CC(=C(C1)NC(OCC=C)=O)F | C21H20ClFN4O2S
